US07153873B2
1-acetyl-3-cyclohexylamino-2-phenyl-imidazo[1,2-a]-pyrimidin-1-ium chloride
Example 6 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-pyrimidine (0.1 M, DCM), 0.575 ml (0.115 mmol) cyclohexylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) benzaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2-amino-pyrimidine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC=CC=N1 | C4H5N3
reactant | cyclohexylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | benzaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-3-cyclohexylamino-2-phenyl-imidazo[1,2-a]-pyrimidin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1N=CC=C2)NC2CCCCC2)C2=CC=CC=C2 | InChI=1S/C20H23N4O.ClH/c1-15(25)24-18(16-9-4-2-5-10-16)19(22-17-11-6-3-7-12-17)23-14-8-13-21-20(23)24;/h2,4-5,8-10,13-14,17,22H,3,6-7,11-12H2,1H3;1H/q+1;/p-1
